data/mechanism_extracts/ChemCommun/10.1039_d5cc03082j_si2.json
{"doi": "10.1039_d5cc03082j_si2", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical Ni-catalyzed α-allylation/alkylation of β-ketoesters with alkenes (e.g., 1,1-diphenylethylene or allyl-TMS) via radical-polar crossover at the anode.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "electrocatalysis_inner_sphere", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic oxidation of a Ni(II)-enolate complex generates a carbon-centered radical/cation that adds to the alkene; cathode reduces protons to H2 (and TMS-related byproducts), closing the paired electrolysis.", "key_intermediates": [{"name": "Ni(II)-enolate of β-ketoester 1a (complex A')", "smiles": null, "role": "reactive"}, {"name": "Anodically oxidized Ni(II)-enol radical cation (B')", "smiles": null, "role": "reactive"}, {"name": "C-C bond formed Ni(II) alkyl intermediate C' (after alkene addition with allyl-TMS 2k)", "smiles": null, "role": "transient"}, {"name": "β-silyl carbocation D' (after second SET oxidation)", "smiles": null, "role": "transient"}, {"name": "Allylated product 31 (after loss of TMS+/desilylation)", "smiles": null, "role": "reactive"}], "electron_flow": "Ni(II) coordinates the β-ketoester enolate (A'); single-electron anodic oxidation gives an α-carbon radical (B') that adds to the alkene to form alkyl–Ni intermediate C'; a second anodic SET produces β-silyl cation D', which loses TMS+ (as TMSOH/TMS2O) to give product 31, while the cathode evolves H2.", "rate_determining_step": null, "probe_reagents": [{"name": "no current (control)", "smiles": null, "purpose": "redox_probe", "observation": "No product 3 formed, confirming the reaction is electrochemically driven."}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3 not detected; TEMPO-adduct 50 isolated in 82% yield (HRMS [M+Na]+ 368.1831), supporting a C-centered radical at the α-position of 1a."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 3 not detected; BHT-adduct 51 isolated in 75% yield (HRMS [M+Na]+ 431.2183), corroborating the radical intermediate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism proposed (Scheme S3) is for the allyl-TMS variant giving product 31; the α-radical is generated via anodic oxidation of a Ni(II)-enolate rather than direct substrate oxidation. Cathodic chemistry includes H2 evolution and degradation of TMS group (TMSOH, TMS2O). No DFT or CV reported in the provided pages."}
